US09029056B2
856 g of 2-nitrobenzenesulfonyl chloride and 7 L of methanol are placed in a reaction container having a stirrer, a thermometer, and a nitrogen introducing pipe attached thereto, and a mixed solution of 745 g of 28% sodium methylate and 600 mL of methanol is dropped at a temperature of not more than 10° C. over 45 minutes. Subsequently, the solution is stirred for 50 minutes while the temperature is kept at 10° C. 1.6 kg of 0.1 mol/L hydrochloric acid is added to the reaction mixture to make the reaction solution acidic, and 3 L of water is further added to precipitate crystals. The crystals are filtered out, and washed with 2 L of water. Then, the crystals are dried under reduced pressure at 30° C. for 10 hours to obtain 702 g of 2-nitrobenzenesulfonic acid methyl ester.

reactant | 2-nitrobenzenesulfonyl chloride | 856 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | methanol | 7 L | CO | CH4O
reactant | sodium methylate | 745 g | C[O-].[Na+]
reactant | methanol | 600 mL | CO | CH4O
reactant | hydrochloric acid | 0.1 mol/L, 1.6 kg | Cl | ClH
solvent | water | 3 L | O | H2O
product | 2-nitrobenzenesulfonic acid methyl ester | 702 g | COS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C7H7NO5S
